Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
sulfa
 
Attending: ___.
 
Chief Complaint:
Mechanical fall forward
 
Major Surgical or Invasive Procedure:
___: Facial laceration suturing in ED

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of Parkinsons who 
presents to ___ on ___ after a mechanical fall 
while walking outside. She had a head strike with LOC and a mild 
TBI. CT head shows tiny acute hemorrhage along left frontal lobe 
adjacent to flax either subdural or subarachnoid. Denies 
headache, nausea, vomiting. She sustain multiple lacerations. 
The patient sustained lip laceration on Lower lip both ant. and 
post aspects. Her lacerations were sutured in the Ed at bed 
side.
 
Past Medical History:
PMHx:
IDDM 
___
HTN 

SH:
___
Family History:
Noncontributory
 
Physical Exam:
T:98.5  BP:132/77 HR:69  RR:18    O2Sats:95%RA 
Gen: comfortable, NAD, A&O x ___
HEENT: Pupils equally round and reactive to light
Heart : RRR
Lung : CTA b/l 
Extrem: Warm and well-perfused. bilateral knee bruising and shin 
hematoma.
Neuro: Mental status: Awake and alert, cooperative with exam, 
normal affect.
Orientation: Oriented to person and place.
 
Pertinent Results:
___ 07:08PM   VIT B12-549
___ 07:08PM   TSH-2.4
___ 06:10PM   GLUCOSE-150* UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-24 ANION GAP-14
___ 06:10PM   CALCIUM-9.2 PHOSPHATE-2.5* MAGNESIUM-2.2
___ 06:10PM   WBC-7.1 RBC-4.02 HGB-12.6 HCT-38.3 MCV-95 
MCH-31.3 MCHC-32.9 RDW-13.2 RDWSD-45.9
___ 06:10PM   PLT COUNT-166
___ 06:10PM   ___ PTT-28.6 ___
___ 03:56AM   GLUCOSE-192* UREA N-17 CREAT-0.8 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-28 ANION GAP-12
___ 03:56AM   WBC-6.8 RBC-3.96 HGB-12.8 HCT-37.4 MCV-94 
MCH-32.3* MCHC-34.2 RDW-13.2 RDWSD-45.3
___ 03:56AM   PLT COUNT-177
___ 08:00PM   cTropnT-<0.01
___ 03:19PM   GLUCOSE-206* UREA N-21* CREAT-1.0 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-98 TOTAL CO2-24 ANION GAP-17
___ 03:19PM   estGFR-Using this
___ 03:19PM   cTropnT-<0.01
___ 03:19PM   CALCIUM-9.6 PHOSPHATE-2.4* MAGNESIUM-2.0
___ 03:19PM   WBC-6.3 RBC-4.30 HGB-13.6 HCT-39.9 MCV-93 
MCH-31.6 MCHC-34.1 RDW-13.2 RDWSD-44.4
___ 03:19PM   NEUTS-61.2 ___ MONOS-7.2 EOS-2.4 
BASOS-0.6 IM ___ AbsNeut-3.85# AbsLymp-1.77 AbsMono-0.45 
AbsEos-0.15 AbsBaso-0.04
___ 03:19PM   PLT COUNT-187
___ 03:19PM   ___ PTT-24.8* ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old who sustained a mechanical fall while 
walking outside with loss of consciousness, mild traumatic brain 
injury, Right rib fractures, nasal bone fractures and multiple 
facial lacerations which were sutures in the ED and was admitted 
to the ___ on ___. Neurosurgery was consulted in the ED and recommended to 
repeat Head CT without contrast in 12 hours. The patient was 
admitted to the Trauma surgery service for observation and pain 
control. Repeat Head CT showed redemonstration of the suspected 
small subarachnoid hemorrhage along the medial aspect of the 
left frontal lobe without significant interval changes.

On HD1, the patient seemed increasingly confused above baseline. 
A neurology exam was performed and resulted negative with 
non-focalization. Neurology was consulted given her history of 
___ with slowness on her responses and increased 
confusion. They recommended to talk to her personal psychiatrist 
about dosing and timing of her medications and reason for 
prescription of her first generation antipsychotic given that 
this medication could worsen Parkinsonian symptoms. Her personal 
psychiatrist, Dr ___, was contacted and agreed on stopping the 
medication. Neurology also recommended ruling out reversible 
causes of dementia and B12/TSH/RPR were ordered all resulting 
negative. UA/UCx and CXR were collected to rule out any
associated infectious process, they were within normal limits. 
The patient also began getting agitated that same day and a dose 
of Olanzapine was administered, she was back to baseline. 
Plastic surgery was also consulted for her facial lacerations 
and nasal bone fracture. Plastics assessed patient and solely 
recommended a followup with Dr. ___ 1 week following 
discharge.

On HD2, physical therapy assessed the patient and recommended 
home with home ___ and 24 hour supervision with husband. 
___ was consulted for further recommendations given her 
advanced age, advanced ___ disease, and delirium 
episodes and recommended to decrease the sinemet to home dose 
0.5 mg daily, and to resume home levothyroxine 75 mcg daily. 
They recommended to taper her home perphenazine from 4 mg daily 
to 2 mg daily for a week and then discontinue it completely.

On HD3, occupational therapy assessed the patient which again 
recommended home with 24 hour supervision from her husband. A 
rolling ___ was also prescribed and provided to the patient 
per physical therapy recommendations. The patient was deemed 
ready for discharge, and was given the appropriate discharge and 
follow-up instructions.
 
Medications on Admission:
CARB/LEVO TAB ___
FLUOXETINE CAP 20MG
HYDROCHLOROT CAP 12.5MG
PERPHENAZINE TAB 4MG
SIMVASTATIN TAB 20MG
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Bacitracin Ointment 1 Appl TP BID Duration: 5 Days  
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply to rib pain daily Disp #*30 Patch 
Refills:*0 
4.  Perphenazine 2 mg PO DAILY Duration: 7 Days 
After 7 days discontinue. 
RX *perphenazine 2 mg 1 (One) tablet(s) by mouth once a day Disp 
#*7 Tablet Refills:*0 
5.  Carbidopa-Levodopa (___) 0.5 TAB PO TID  
6.  Docusate Sodium 100 mg PO BID  
7.  FLUoxetine 20 mg PO DAILY  
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Levothyroxine Sodium 75 mcg PO DAILY  
10.  Simvastatin 10 mg PO QPM  
11.Rolling Walker
Dx: Gait instability
Px: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall:
Subarachnoid hemorrhage left medial frontal lobe 
Right Ribs Fracture 5,6,8 
Nasal bone Fracture with septal deviation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after a mechanical fall. You 
fractured bones in your nose, fractured ribs 5,6,8 on the right 
side, and hit your head causing a small brain bleed. 

Neurosurgery was consulted for the traumatic brain injury (TBI). 
A repeat head CT was stable and did not show any worsening of 
the bleed. You have remained neurovascularly intact. 
Neurosurgery recommended no intervention and follow-up in the 
TBI/Concussion clinic. 

Plastic Surgery was consulted for the nasal bone fracture. They 
sutured a laceration on your face. They recommended no urgent 
operative intervention, and follow-up with Dr ___ in 1 week 
in plastic surgery clinic for repeat evaluation. They also 
recommended you avoid nose blowing, pressure to nose. The 
sutures can be removed in approximately 1 week. In the meantime, 
apply bacitracin twice a day x 5 days to facial abrasions.

Your will continue your medication perphenazine for one more 
week at 2 mg Daily (instead of 4 mg) and then should be 
discontinued.

* Your injury caused multiple rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___